US08008305B2
2-Chloro-6-(4-methyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-nicotinamide
In analogy to example 21 methyl 2,6-dichloronicotinic acid was coupled with 4-phenoxyphenethylamine and then reacted with N-methylpiperazine. Yellow solid.

reactant | methyl 2,6-dichloronicotinic acid | CC=1C(=NC(=C(C(=O)O)C1)Cl)Cl | C7H5Cl2NO2
reactant | 4-phenoxyphenethylamine | O(C1=CC=CC=C1)C1=CC=C(CCN)C=C1 | C14H15NO
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-Chloro-6-(4-methyl-piperazin-1-yl)-N-[2-(4-phenoxy-phenyl)-ethyl]-nicotinamide | ClC1=C(C(=O)NCCC2=CC=C(C=C2)OC2=CC=CC=C2)C=CC(=N1)N1CCN(CC1)C | C25H27ClN4O2
